US06740656B2
Step 4A 6-[(2R)-Amino-2-phenylethyl]-8-(2-fluorophenyl)-3-(S)-phenyl-2,3-dihydrothiazolo[3,2-C]pyrimidine-5,7-dione.
To a stirring suspension of 8-(2-fluorophenyl)-3-(S)-phenyl-2,3-dihydrothiazolo[3,2-C]pyrimidine-5,7-dione (0.100 g, 0.290 mmol), triphenylphosphine (0.115 g, 0.440 mmol) and N-BOC-D-phenylglycinol (0.078 g, 0.32 mmol) in dry THF (5 mL) was added diethyl azodicarboxylate (0.070 mL, 0.44 mmol) dropwise over 5 min. The mixture was stirred for 3 h, then concentrated and subjected to flash chromatography (5% ethyl acetate/dichloromethane) to give a viscous, pale yellow oil. To the oil in dichloromethane (1 mL) was added trifluoroacetic acid (0.5 mL). The mixture was stirred for 0.5 h, evaporated to dryness, re-dissolved in 10 mL dichloromethane, and carefully quenched with sat. aq. sodium bicarbonate (10 mL). The mixture was separated, and the aqueous layer was extracted with dichloromethane (2×10 mL). The combined extracts were dried (magnesium sulfate), evaporated, and chromatographed (5% methanol/ethyl acetate) to give the title compound as a pale yellow solid (0.095 g, 70%). MS=460.1 ((M+H)+). 1H NMR (TMS/CDCl3, 400 MHz): 7.45-7.16 (m, 14H); 6.05 (d, J=8.4 Hz, 1H); 4.39-4.35 (m, 1H); 4.20-4.03 (m, 2H); 3.93 (dd, J=11.6, 8.4 Hz, 1H); 3.15 (dd, J=11.6, 4.8 Hz, 1H); 1.68 (bs, 1H).

reactant | 8-(2-fluorophenyl)-3-(S)-phenyl-2,3-dihydrothiazolo[3,2-C]pyrimidine-5,7-dione | 0.290 mmol, 0.100 g | FC1=C(C=CC=C1)C1=C2N(C(NC1=O)=O)[C@H](CS2)C2=CC=CC=C2 | C18H13FN2O2S
reactant | triphenylphosphine | 0.440 mmol, 0.115 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.44 mmol, 0.070 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 6-[(2R)-Amino-2-phenylethyl]-8-(2-fluorophenyl)-3-(S)-phenyl-2,3-dihydrothiazolo[3,2-C]pyrimidine-5,7-dione | 0.095 g, 70% | N[C@@H](CN1C(N2C(=C(C1=O)C1=C(C=CC=C1)F)SC[C@@H]2C2=CC=CC=C2)=O)C2=CC=CC=C2 | C26H22FN3O2S
